US07179804B2
1-(3,5-Bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-imidazole-4-carboxylic acid methyl ester
In a pressure vessel dissolve 1-(3,5-Bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-imidazole-4-carbonitrile (0.043 g, 0.11 mmol) in MeOH (1 mL), add H2O (0.1 mL), and concentrated sulfuric acid (0.3 mL), and stir at 100° C. After 24 h., neutralize with sat. aq. NaHCO3, and extract with EtOAc (3×). Dry over MgSO4, filter, and concentrate. Purify by radial chromatography on silica gel to give the title compound: MS (ES) 430.2 (M+1); 1H NMR (300 MHz, CDCl3): δ 8.68 (ap d, 1H), 8.52 (ap d, 1H), 7.80 (s, 1H), 7.78 (s, 1H), 7.56 (d, J=7.8 Hz, 1H), 7.37 (m, 1H), 7.29 (s, 2H), 5.30 (s, 2H), 3.81 (s, 3H).

reactant | 1-(3,5-Bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-imidazole-4-carbonitrile | 0.11 mmol, 0.043 g | FC(C=1C=C(CN2C=NC(=C2C=2C=NC=CC2)C#N)C=C(C1)C(F)(F)F)(F)F | C18H10F6N4
reactant | H2O | 0.1 mL | O | H2O
reactant | sulfuric acid | 0.3 mL | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | 1-(3,5-Bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-imidazole-4-carboxylic acid methyl ester | COC(=O)C=1N=CN(C1C=1C=NC=CC1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C19H13F6N3O2
